US06974817B2
(3R)-1-(4-Fluoro-benzyl)-3-methyl-piperazine
To a solution of (2R)-2-methyl-piperazine (4.5 g, 45 mmol) in ethanol (80 mL) was added 4-fluorobenzyl chloride (5.38 mL, 45.0 mmol) and sodium hydrogen carbonate (11.3 g, 135 mmol). The reaction was refluxed overnight, cooled and concentrated. The remaining residue was diluted with dichloromethane and washed with water. The organic layer was separated and concentrated to give a clear oil. Chromatography on silica gel gave the title compound (5.0 g).

reactant | (2R)-2-methyl-piperazine | 45 mmol, 4.5 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 4-fluorobenzyl chloride | 45.0 mmol, 5.38 mL | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | sodium hydrogen carbonate | 135 mmol, 11.3 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | (3R)-1-(4-Fluoro-benzyl)-3-methyl-piperazine | 5.0 g | FC1=CC=C(CN2C[C@H](NCC2)C)C=C1 | C12H17FN2
